US04812164
A mixture of 2.0 g of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoro methyl-6(1H)-pyrimidinone, 1.06 g of propargyl bromide and 1.64 g of potassium carbonate in 5.0 ml of anhydrous acetone is heated at boiling point for 2.5 hours while stirring. The insoluble constituents are subsequently filtered off under suction and the filtrate is evaporated to dryness under reduced pressure. The residue is dissolved in 100 ml of ethyl acetate and the solution is extracted three times with 50 ml of water each time. The organic phase is then dried over anhydrous sodium sulphate and evaporated to dryness. The residue is recrystallized from diethyl ether/n-hexane. There is obtained 1-(4-chloro-2-fluoro-5-propargyloxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 108°-110° C.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoro methyl-6(1H)-pyrimidinone | 2.0 g | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C12H7ClF4N2O3
reactant | propargyl bromide | 1.06 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 1.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5.0 ml | CC(=O)C | C3H6O
product | 1-(4-chloro-2-fluoro-5-propargyloxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OCC#C)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C15H9ClF4N2O3
